US06900237B2
A solution comprised of benzyl 2-(4-methoxyphenylsulfamoyl)ethylcarbamate (2.78 g, 7.63 mmol), prepared as in Reference 1, in ethanol (20 mL) and cyclohexene (20 mL) was treated with 20% palladium hydroxide (0.95 g). The mixture was heated at reflux for 2 hours, cooled, and concentrated to dryness. The solid was triturated with ether, filtered and dried to provide 2-amino-N-(4-methoxyphenyl)ethanesulfonamide (1.08 grams, 61% yield). 1H NMR (DMSO-d6): 2.86 (2H, t, J=6.4 Hz); 3.04 (2H, t, J=6.4 Hz); 3.72 (3H, s); 4.16 (2H, br. s); 6.87 (2H, d, J=9 Hz); 7.05 (2H, d, J=9 Hz).

reactant | benzyl 2-(4-methoxyphenylsulfamoyl)ethylcarbamate | 7.63 mmol, 2.78 g | COC1=CC=C(C=C1)NS(=O)(=O)CCNC(OCC1=CC=CC=C1)=O | C17H20N2O5S
reactant | cyclohexene | 20 mL | C1=CCCCC1 | C6H10
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 0.95 g | [OH-].[Pd+2].[OH-]
product | 2-amino-N-(4-methoxyphenyl)ethanesulfonamide | 1.08 grams, 61% yield | NCCS(=O)(=O)NC1=CC=C(C=C1)OC | C9H14N2O3S
